US09446348B2
1-(2,3-Dihydroxypropyl)-3-propylimidazolium Chloride (RTIL 4)
1-Propylimidazole (2.75 g, 25.0 mmol) and 3-chloro-1,2-propanediol (2.76 g, 25.0 mmol) were stirred in a 130° C. oil bath for 48 h, after which the flask was placed under vacuum and stirring continued at 130° C. for another 48 h. The residue was then dissolved in CH3OH, transferred to a tared flask and concentrated to afford the product as a viscous brown oil (5.20 g, 95%). 1H NMR: δH ppm (400 MHz; DMSO-d6) 0.84 (t, J=7.42 Hz, 3H) 1.74-1.86 (m, 2H) 3.22 (dd, J=11.17, 6.96 Hz, 1H) 3.42 (dd, J=10.99, 4.95 Hz, 1H) 4.07-4.20 (m, 3H) 4.33 (dd, J=13.74, 3.11 Hz, 1H) 5.15 (br. s., 1H) 5.56 (br. s., 1H) 7.78 (t, J=1.74 Hz, 1H) 7.82 (t, J=1.83 Hz, 1H) 9.29 (t, J=1.47 Hz, 1H).

reactant | 1-Propylimidazole | 25.0 mmol, 2.75 g | C(CC)N1C=NC=C1 | C6H10N2
reactant | 3-chloro-1,2-propanediol | 25.0 mmol, 2.76 g | ClCC(CO)O | C3H7ClO2
solvent | CH3OH | CO | CH4O
product | 1-(2,3-Dihydroxypropyl)-3-propylimidazolium Chloride | 5.20 g, 95% | [Cl-].OC(C[N+]1=CN(C=C1)CCC)CO | InChI=1S/C9H17N2O2.ClH/c1-2-3-10-4-5-11(8-10)6-9(13)7-12;/h4-5,8-9,12-13H,2-3,6-7H2,1H3;1H/q+1;/p-1
